US08071624B2
Methyl 6-((3S)-3-{[(4-hydroxycyclohexyl)amino]carbonyl}piperidin-1-yl)nicotinate
A mixture of (3S)-N-(4-hydroxycyclohexyl)piperidine-3-carboxamide hydrochloride (19.7 mg, 0.0000750 mol, prepared by using a procedure that was analogous to that described for the synthesis of example 1, steps 1 and 2), methyl 6-chloronicotinate (15.4 mg, 0.0000900 mol) and N,N-diisopropylethylamine (37.5 μL, 0.000216 mol) in N,N-dimethylformamide (0.75 mL, 0.0097 mol) was irradiated under microwave at 200° C. for 15 min. The mixture was adjusted with TFA to pH=2.0 and was diluted with methanol (0.8 mL). The resulting solution was purified by prep.-HPLC to give the desired product. LCMS: m/z 362.2 (M+H)+.

reactant | (3S)-N-(4-hydroxycyclohexyl)piperidine-3-carboxamide hydrochloride | Cl.OC1CCC(CC1)NC(=O)[C@@H]1CNCCC1
reactant | methyl 6-chloronicotinate | 0.0000900 mol, 15.4 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | N,N-diisopropylethylamine | 0.000216 mol, 37.5 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.0097 mol, 0.75 mL | CN(C=O)C | C3H7NO
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 0.8 mL | CO | CH4O
product | Methyl 6-((3S)-3-{[(4-hydroxycyclohexyl)amino]carbonyl}piperidin-1-yl)nicotinate | OC1CCC(CC1)NC(=O)[C@@H]1CN(CCC1)C1=NC=C(C(=O)OC)C=C1 | C19H27N3O4
